US09227930B2
To a suspension of 2-amino-6-methoxy-2,3-dihydro-1H-inden-1-one hydrochloride (15.4 g, 72.1 mmol) in dichloromethane was added ethyl chloroformate (10.38 ml, 108 mmol) followed by dropwise addition of a solution of diisopropylamine (25.2 ml, 144 mmol) in 10 ml dichloromethane. The reaction mixture was stirred at room temperature over night. Added 1N hydrochloric acid, diluted with dichloromethane, separated organic layer and the aqueous layer was extracted twice with dichloromethane. The combined organic layers were washed subsequently with water, sodium bicarbonate and brine, dried, filtered and evaporated to obtain the product (ethyl 6-methoxy-1-oxo-2,3-dihydro-1H-inden-2-ylcarbamate) as a purple solid. m=16.4 g (95%)

reactant | 2-amino-6-methoxy-2,3-dihydro-1H-inden-1-one hydrochloride | 72.1 mmol, 15.4 g | Cl.NC1C(C2=CC(=CC=C2C1)OC)=O
reactant | ethyl chloroformate | 108 mmol, 10.38 ml | ClC(=O)OCC | C3H5ClO2
reactant | diisopropylamine | 144 mmol, 25.2 ml | C(C)(C)NC(C)C | C6H15N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | ethyl 6-methoxy-1-oxo-2,3-dihydro-1H-inden-2-ylcarbamate | COC1=CC=C2CC(C(C2=C1)=O)NC(OCC)=O | C13H15NO4
